US06949536B2
5-Methyl-2-thienylboronic acid (Step 1)
To a stirred solution of 2-bromo-5-methylthiophene (2.5 g, 14.1 mmol) in THF (30 mL) was added n-BuLi (1.55 M solution in hexane, 10.0 mL, 15.5 mmol) at −78° C. under nitrogen, and the mixture was stirred for 1 hour. Trimethylborate (1.83 g, 17.6 mmol) was added to the mixture, and residue was allowed to warm up to room temperature overnight. The reaction mixture was cooled at 0° c and 2N HCl (10 mL) was added, and the mixture was stirred for 1 hour. The organic layer was separated and the aqueous layer was extracted with diethylether. The combined organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo, to give the title compound (1.36 g).

reactant | 2-bromo-5-methylthiophene | 14.1 mmol, 2.5 g | BrC=1SC(=CC1)C | C5H5BrS
reactant | n-BuLi | 15.5 mmol, 1.55 M, 10.0 mL | [Li]CCCC
reactant | Trimethylborate | 17.6 mmol, 1.83 g | COB(OC)OC | C3H9BO3
reactant | HCl | 2N, 10 mL | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 5-Methyl-2-thienylboronic acid | 1.36 g | CC1=CC=C(S1)B(O)O | C5H7BO2S
